US04868319
Cis-2-[(octadecylaminocarbonyl)oxy]methyl-5-hydroxymethyl tetrahydrofuran
A suspension of 2.64 g (20 mmol) of cis-2,5-bis(hydroxymethyl)tetrahydrofuran, 7.99 g (24 mmol) of octadecyl bromide, 2.43 g (30 mmol) of potassium cyanate and 0.966 g (3 mmol) of tetrabutyl ammonium bromide in 100 ml of dry acetonitrile was refluxed, with stirring, at 100° C. for 20 hours. The resultant mixture was then diluted with hot methylene chloride, filtered and the filtrate concentrated in vacuo. The crude product was then purified by flash silica gel chromatography employing successive mixtures of petroleum ether and ethyl acetate in ratios of 4:1, 2.33:1 and 1:1 as the eluent to yield the title compound as a solid, m.p. 79°-80° C.

reactant | cis-2,5-bis(hydroxymethyl)tetrahydrofuran | 20 mmol, 2.64 g | OC[C@@H]1O[C@@H](CC1)CO | C6H12O3
reactant | octadecyl bromide | 24 mmol, 7.99 g | C(CCCCCCCCCCCCCCCCC)Br | C18H37Br
reactant | potassium cyanate | 30 mmol, 2.43 g | [O-]C#N.[K+]
catalyst | tetrabutyl ammonium bromide | 3 mmol, 0.966 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Cis-2-[(octadecylaminocarbonyl)oxy]methyl-5-hydroxymethyl tetrahydrofuran | C(CCCCCCCCCCCCCCCCC)NC(=O)OC[C@@H]1O[C@@H](CC1)CO | C25H49NO4
